US04590201
A stirred, 60° solution of sodium (105 mg, 4.55 mmol) in absolute ethanol (11.4 ml) was treated in one portion with 2-cyanoacetamide (382 mg, 4.55 mmol), kept 5 minutes, and treated in one portion with a solution of 4-(4-chlorobenzoyl)-3,5-dimethylbenzyl azide (1.05 g, 3.50 mmol) in absolute ethanol (4 ml). The mixture was refluxed 1 hour, cooled to ambient temperature, acidified with glacial acetic acid (577 μl, 605 mg, 9.10 mmol), and evaporated almost to dryness under vacuum. The residue was refluxed briefly with methanol (7 ml), cooled to ambient temperature, and filtered. The solid product was washed four times with small volumes of methanol, washed three times with water, and dried under vacuum at 40° C. to provide 870 mg (65%) 5-amino-1-(4-[4-chlorobenzoyl]-3,5-dimethylbenzyl)-1,2,3-triazole-4-carboxamide, m.p. 208°-209° C.

reactant | sodium | 4.55 mmol, 105 mg | [Na] | Na
reactant | 2-cyanoacetamide | 4.55 mmol, 382 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 4-(4-chlorobenzoyl)-3,5-dimethylbenzyl azide | 3.50 mmol, 1.05 g | ClC1=CC=C(C(=O)C2=C(C=C(CN=[N+]=[N-])C=C2C)C)C=C1 | C16H14ClN3O
reactant | acetic acid | 9.10 mmol, 577 μl, 605 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 11.4 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-amino-1-(4-[4-chlorobenzoyl]-3,5-dimethylbenzyl)-1,2,3-triazole-4-carboxamide | 870 mg, 65% | NC1=C(N=NN1CC1=CC(=C(C(=C1)C)C(C1=CC=C(C=C1)Cl)=O)C)C(=O)N | C19H18ClN5O2
